US07915200B2
5. Preparation of 2-(2,3-Difluoro-4-methylphenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane
A 2.5 M solution of n-butyllithium (3.4 mL, 8.5 mmol) was added to a stirred solution of diisopropylamine (1.2 mL, 8.5 mmol) in THF (25 mL) at −20° C. The resulting solution was stirred at −20° C. for 10 minutes, then cooled to −78° C. A solution of 1,2-difluoro-3-methylbenzene (1.0 g, 7.8 mmol) in THF was added dropwise and stirred at −78° C. for 2 h. 2-Isopropoxy-4,4,5,5-tetramethyl[1,3,2]dioxaborolane (1.6 g, 8.6 mmol) in THF was then added and the brown solution was slowly warmed to 23° C. over 16 hours. The reaction mixture was then added to ether and extracted with water and with 0.1N sodium hydroxide. The combined aqueous extracts were acidified with concentrated HCl then extracted with dichloromethane. The organic phase was dried and concentrated to give the title compound (1.0 g, 50% yield): 1H NMR (CDCl3): δ 7.32 (m, 1H), 6.92 (m, 1H), 2.31 (s, 3H), 1.32 (s, 12H).

reactant | n-butyllithium | 8.5 mmol, 3.4 mL | C(CCC)[Li]
reactant | diisopropylamine | 8.5 mmol, 1.2 mL | C(C)(C)NC(C)C | C6H15N
reactant | 1,2-difluoro-3-methylbenzene | 7.8 mmol, 1.0 g | FC1=C(C(=CC=C1)C)F | C7H6F2
reactant | 2-Isopropoxy-4,4,5,5-tetramethyl[1,3,2]dioxaborolane | 8.6 mmol, 1.6 g | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 2-(2,3-Difluoro-4-methylphenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 1.0 g, 50% yield | FC1=C(C=CC(=C1F)C)B1OC(C(O1)(C)C)(C)C | C13H17BF2O2
